US08026257B2
tert-Butyl 4-((2,3-diamino-5-chlorobenzoyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
To a solution of tert-butyl 4-((2-amino-5-chloro-3-nitrobenzoyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (700 mg, 1.4 mmol) in ethyl acetate (20 mL) under nitrogen was added palladium (10% on carbon, 140 mg). The flask was flushed with hydrogen and shaken under 60 psi of hydrogen overnight. The reaction was filtered through celite and concentrated to give 715 mg (quant.) as a foam semi-solid which was used without purification. tR=3.19 (Sunfire C18 4.6×50 mm, A=90% H2O/10% ACN, B=90% ACN/10% H2O, Modifier 0.1% TFA, 0.00 min=0% B, 4.0 min=100% B, 5.0 min=100% B, Flow rate=4 mL/min. Mass spec.: 377.88 (MH-Boc)+.

reactant | tert-butyl 4-((2-amino-5-chloro-3-nitrobenzoyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 1.4 mmol, 700 mg | NC1=C(C(=O)OCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)F)C=C(C=C1[N+](=O)[O-])Cl | C24H27ClFN3O6
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 140 mg | [Pd] | Pd
product | tert-Butyl 4-((2,3-diamino-5-chlorobenzoyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | NC1=C(C(=O)OCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)F)C=C(C=C1N)Cl | C24H29ClFN3O4
